US08835432B2
Under an N2 atmosphere, (S)-tert-butyl (1-(7-fluoro-2-(2-(methylthio)phenyl)-quinolin-3-yl)ethyl)carbamate (412 mg, 999 μmol) was dissolved in acetone (3.00 ml, 40.8 mmol) and water (3 mL), and NMO (351 mg, 3.00 mmol) was added followed by OsO4 (12.7 mg, 0.05 mmol). The reaction was allowed to stir at rt overnight. LC-MS showed the reaction not to be complete. The reaction was treated with OsO4 (12.7 mg, 0.05 mmol) again and stirred overnight. LC-MS showed only a trace of the starting reagent. The reaction was quenched by the addition of 5 mL of a saturated sodium thiosulfate solution. The reaction was diluted with EtOAc and washed with 5% Na2CO3. The organic layer was then washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude residue was purified eluting with 30% to 60% EtOAc in hexanes to provide a white solid (S)-tert-butyl (1-(7-fluoro-2-(2-(methylsulfonyl)phenyl)quinolin-3-yl)-ethyl)carbamate (440 mg, 99%). Mass Spectrum (ESI) m/e=445 (M+1).

reactant | (S)-tert-butyl (1-(7-fluoro-2-(2-(methylthio)phenyl)-quinolin-3-yl)ethyl)carbamate | 999 μmol, 412 mg | FC1=CC=C2C=C(C(=NC2=C1)C1=C(C=CC=C1)SC)[C@H](C)NC(OC(C)(C)C)=O | C23H25FN2O2S
reactant | acetone | 40.8 mmol, 3.00 ml | CC(=O)C | C3H6O
reactant | NMO | 3.00 mmol, 351 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 3 mL | O | H2O
catalyst | OsO4 | 0.05 mmol, 12.7 mg | O=[Os](=O)(=O)=O
catalyst | OsO4 | 0.05 mmol, 12.7 mg | O=[Os](=O)(=O)=O
product | (S)-tert-butyl (1-(7-fluoro-2-(2-(methylsulfonyl)phenyl)quinolin-3-yl)-ethyl)carbamate | 440 mg, 99% | FC1=CC=C2C=C(C(=NC2=C1)C1=C(C=CC=C1)S(=O)(=O)C)[C@H](C)NC(OC(C)(C)C)=O | C23H25FN2O4S
